### PR TITLE
[Merged by Bors] - feat(Order): Fin.orderHom_injective_iff

### PR DESCRIPTION
**Pull request by joelriou**
This PR adds a lemma `Fin.orderHom_injective_iff` which says that a monotone map `f : Fin (n + 1) →o α` is injective iff `f i.castSucc ≠ f i.succ` for all `i`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Fin/Monotone.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+In this file, we show that a map `f : Fin (n + 1) → α` is monotone
+iff `f i.castSucc ≤ f i.succ` for all `i : Fin n`.
+
+-/
+
+universe u
+
+namespace Fin
+
+lemma monotone_iff {α : Type u} [Preorder α] {n : ℕ} (f : Fin (n + 1) → α) :
```
Comment (mo271) [inline Mathlib/Order/Fin/Monotone.lean:20]: isnt' this https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Fin/Basic.html#Fin.monotone_iff_le_succ ?

File: Mathlib/Order/Fin/Monotone.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+    Function.Injective f ↔ ∀ (i : Fin n), f i.castSucc ≠ f i.succ := by
+  constructor
+  · intro hf i h
+    simpa [Fin.ext_iff] using hf h
+  · intro hf i j h
+    wlog hij : i ≤ j generalizing i j h
+    · exact (this h.symm (by omega)).symm
+    obtain ⟨k, hk⟩ := Nat.le.dest hij
+    cases k with
+    | zero => ext; omega
```
Comment (mo271) [inline Mathlib/Order/Fin/Monotone.lean:46]:
```suggestion
    | zero => omega
```

**Review by mo271 — APPROVED** [review]

File: Mathlib/Order/Fin/Monotone.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+        let l : Fin n := ⟨i.1, by omega⟩
+        have h₁ : f i < f l.succ := by
+          rw [lt_iff_le_and_ne]
+          exact ⟨f.monotone l.castSucc_le_succ, hf l⟩
+        have h₂ : f i < f j := lt_of_lt_of_le h₁ (f.monotone (by
+          simp only [Fin.le_def, val_succ, l]
+          omega))
+        exact (h₂.ne h).elim
+
+lemma strictMono_iff {α : Type*} [PartialOrder α] {n : ℕ} (f : Fin (n + 1) → α) :
```
Comment (mo271) [inline Mathlib/Order/Fin/Monotone.lean:57]: this is `Fin.strictMono_iff_lt_succ`, right?

File: Mathlib/Order/Fin/Monotone.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Order/Fin/Monotone.lean]: Thanks very much!

**Review by mo271 — APPROVED** [review]

File: Mathlib/Order/Fin/Basic.lean [hunk 4]
```diff
@@ -170,6 +170,16 @@ lemma predAbove_left_monotone (i : Fin (n + 1)) : Monotone fun p ↦ predAbove p
 @[simps!] def predAboveOrderHom (p : Fin n) : Fin (n + 1) →o Fin n :=
   ⟨p.predAbove, p.predAbove_right_monotone⟩
 
+lemma orderHom_injective_iff {α : Type*} [PartialOrder α] {n : ℕ} (f : Fin (n + 1) →o α) :
```
Comment (b-mehta) [inline Mathlib/Order/Fin/Basic.lean:173]: @YaelDillies it looks like this one might have a generalisation in terms of succ orders: do you know if that exists already?

Comment (YaelDillies) [reply Mathlib/Order/Fin/Basic.lean:173]: No it doesn't. It would belong after `strictMono_iff_lt_succ`

Comment (joelriou) [reply Mathlib/Order/Fin/Basic.lean]: I have moved the lemma upwards in the file.

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm now

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
